US08404679B2
4-{(3SR,4RS)-3-(4-Chloro-phenyl)-4-[(4-methoxy-3-trifluoromethyl-benzoyl)-methyl-amino]-pyrrolidine-1-carbonyl}-piperidine-1-carboxylic acid tert-butyl ester
In analogy to the procedure described for the synthesis of example 87 (step c), the title compound 4-{(3SR,4RS)-3-(4-chloro-phenyl)-4-[(4-methoxy-3-trifluoromethyl-benzoyl)-methyl-amino]-pyrrolidine-1-carbonyl}-piperidine-1-carboxylic acid tert-butyl ester was prepared from N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using piperidine-1,4-dicarboxylic acid mono-tert-butyl ester instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a light brown foam. MS m/e: 624.3 [M]+.

reactant | N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CNC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C20H20ClF3N2O2
reactant | piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
product | 4-{(3SR,4RS)-3-(4-chloro-phenyl)-4-[(4-methoxy-3-trifluoromethyl-benzoyl)-methyl-amino]-pyrrolidine-1-carbonyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N1CC(C(C1)N(C)C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C1=CC=C(C=C1)Cl | C31H37ClF3N3O5
